US08377923B2
Trifluoroacetic acid (0.55 ml) was added to a solution of tert-butyl 4-cyano-2-(trifluoromethyl)benzoate (194 mg) in dichloromethane (2 ml) under ice cooling, followed by stirring at the temperature for one hour. It was warmed to room temperature and stirred for 17 hours. The reaction solution was concentrated under reduced pressure, a 1M aqueous sodium hydroxide solution (2 ml) was added thereto, followed by washing with diethyl ether. 1M hydrochloric acid (2 ml) was added to the aqueous layer, followed by extraction with ethyl acetate-methanol mixed solution (4:1). The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 4-cyano-2-(trifluoromethyl)benzoic acid (136 mg) as a colorless solid.

reactant | Trifluoroacetic acid | 0.55 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-cyano-2-(trifluoromethyl)benzoate | 194 mg | C(#N)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)C(F)(F)F | C13H12F3NO2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-cyano-2-(trifluoromethyl)benzoic acid | 136 mg | C(#N)C1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C9H4F3NO2
